US07122545B2
0.41 g 4-Methoxy-7-morpholin-4-yl-benzothiazole-2-carboxylic acid and 0.14 g 1,1′-carbonyl-diimidazole in 11 ml DMF were stirred at room temperature for 16 hours. 0.16 g 1-amino-3-thiophen-2-yl-propan-2-one hydrochloride and 0.23 ml triethylamine were added and stirring was continued for two days at room temperature. Water was added and the mixture was extracted with ethylacetate. Chromatography on silicagel with ethylacetate/hexane 3:7–7:3 to yielded 0.06 g (18%) 4-methoxy-7-morpholin-4-yl-benzothiazole-2-carboxylic acid (2-oxo-3-thiophen-2-yl-propyl)-amide as a yellow solid; MS (ISP): m/e=432 (M+H+).

reactant | 4-Methoxy-7-morpholin-4-yl-benzothiazole-2-carboxylic acid | 0.41 g | COC1=CC=C(C2=C1N=C(S2)C(=O)O)N2CCOCC2 | C13H14N2O4S
reactant | 1,1′-carbonyl-diimidazole | 0.14 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-amino-3-thiophen-2-yl-propan-2-one hydrochloride | 0.16 g | Cl.NCC(CC=1SC=CC1)=O
reactant | triethylamine | 0.23 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 11 ml | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 4-methoxy-7-morpholin-4-yl-benzothiazole-2-carboxylic acid (2-oxo-3-thiophen-2-yl-propyl)-amide | 0.06 g, 18% | O=C(CNC(=O)C=1SC2=C(N1)C(=CC=C2N2CCOCC2)OC)CC=2SC=CC2 | C20H21N3O4S2
